US07153854B2
To tert-butyl 4-[4-(3-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]butylcarbamate (25 mg) was added 4N hydrogen chloride in ethyl acetate (1 mL) at ambient temperature. After 1 hour, the mixture was evaporated in vacuo. The residue was triturated with isopropyl ether to give 3-[3-(4-aminobutyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzonitrile hydrochloride as dark green amorphous (18 mg)

reactant | tert-butyl 4-[4-(3-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]butylcarbamate | 25 mg | C(#N)C=1C=C(C=CC1)C=1C=2N(N=C(C1CCCCNC(OC(C)(C)C)=O)C)C(=CC2)CC | C26H32N4O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 3-[3-(4-aminobutyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzonitrile hydrochloride | Cl.NCCCCC1=C(C=2N(N=C1C)C(=CC2)CC)C=2C=C(C#N)C=CC2 | InChI=1S/C21H24N4.ClH/c1-3-18-10-11-20-21(17-8-6-7-16(13-17)14-23)19(9-4-5-12-22)15(2)24-25(18)20;/h6-8,10-11,13H,3-5,9,12,22H2,1-2H3;1H
